US08604069B2
(A-75-15) tert-Butyl 3-[4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl]-5-hydroxyvalerate
To tetrabutylammonium fluoride (1 M in tetrahydrofuran) (6.26 mL) were added water (0.0725 mL), acetic acid (0.29 mL) and a solution of tert-butyl 5-(tert-butyldiphenylsilanyloxy)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}valerate (2.76 g) in tetrahydrofuran (20 mL) at ice temperature. The mixture was stirred at RT overnight. The reaction mixture was concentrated in vacuo. The residue was purified by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/6→1/4→1/2) to give the title compound (1.72 g).

reactant | tetrabutylammonium fluoride | 1 M, 6.26 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 0.0725 mL | O | H2O
reactant | acetic acid | 0.29 mL | C(C)(=O)O | C2H4O2
reactant | tert-butyl 5-(tert-butyldiphenylsilanyloxy)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}valerate | 2.76 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C1=NOC(=C1C1CC1)C1CC(C1)CC(CC)CC | C41H59NO4Si
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-[4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl]-5-hydroxyvalerate | 1.72 g | C1(CC1)C=1C(=NOC1C1CC(C1)CC(CC)CC)C(CC(=O)OC(C)(C)C)CCO | C25H41NO4
